US05914328
55a 6-chloro-3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)pyridine
A 625 mg sample of 3-((1-t-butoxycarbonyl-2-(S)-pyrrolidinyl)methoxy)-6-chloropyridine, prepared as in Example 45a, was treated with 2 mL of 37% paraformaldehyde and 1 mL of formic acid at reflux for 16 hours. The volatiles were removed by evaporation, and the residue was dissolved in 1 mL of 20% NaOH. The solution was extracted with CH2Cl2 (3X), then the organic layer was dried (Na2SO4) and concentrated. The crude product was purified by chromatography over silica gel, eluting with 100:1 chloroform:methanol to afford 439 mg of the title compound. MS (DCI/NH3) m/e: 227/229 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 8.09 (dd, J=2.1, 2.1 Hz, 1H), 7.24-7.21 (m, 2H), 4.02 (dd, J=11.0, 3.0 Hz, 1H), 3.93 (dd, J=11.0, 5.8 Hz, 1H), 3.21-3.10 (m, 1H), 2.76-2.64 (m, 1H), 2.51 (s, 3H), 2.40-2.28 (m, 1H), 2.12-1.98 (m, 1H), 1.97-1.68 (m, 4H).

reactant | 3-((1-t-butoxycarbonyl-2-(S)-pyrrolidinyl)methoxy)-6-chloropyridine | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC=1C=NC(=CC1)Cl | C15H21ClN2O3
reactant | paraformaldehyde | 2 mL | C=O | CH2O
solvent | formic acid | 1 mL | C(=O)O | CH2O2
product | 6-chloro-3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)pyridine | 439 mg | ClC1=CC=C(C=N1)OC[C@H]1N(CCC1)C | C11H15ClN2O
